US07402698B2
1-(1-{3-fluoro-4-[(4-methylbenzyl)oxy]phenyl}-2-piperazin-1-ylethyl)cyclohexanol dihydrochloride
In an analogous manner to Example 1, step 2 1-[1-(3-fluoro-4-{[4-(trifluoromethyl)benzyl]oxy}phenyl)-2-(4-methylpiperazin-1-yl)ethyl]cyclohexanol dihydrochloride was prepared from tert-butyl 4-[(3-fluoro-4-{[4-(methyl)benzyl]oxy}phenyl)(1-hydroxycyclohexyl)acetyl]piperazine-1-carboxylate. MS (ESI) m/z 427; HRMS: calcd for C26H35FN2O2+H+, 427.27553; found (ESI, [M+H]+), 427.2776.

reactant | 1-[1-(3-fluoro-4-{[4-(trifluoromethyl)benzyl]oxy}phenyl)-2-(4-methylpiperazin-1-yl)ethyl]cyclohexanol dihydrochloride | Cl.Cl.FC=1C=C(C=CC1OCC1=CC=C(C=C1)C(F)(F)F)C(CN1CCN(CC1)C)C1(CCCCC1)O
reactant | tert-butyl 4-[(3-fluoro-4-{[4-(methyl)benzyl]oxy}phenyl)(1-hydroxycyclohexyl)acetyl]piperazine-1-carboxylate | FC=1C=C(C=CC1OCC1=CC=C(C=C1)C)C(C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)C1(CCCCC1)O | C31H41FN2O5
product | 1-(1-{3-fluoro-4-[(4-methylbenzyl)oxy]phenyl}-2-piperazin-1-ylethyl)cyclohexanol dihydrochloride | Cl.Cl.FC=1C=C(C=CC1OCC1=CC=C(C=C1)C)C(CN1CCNCC1)C1(CCCCC1)O | InChI=1S/C26H35FN2O2.2ClH/c1-20-5-7-21(8-6-20)19-31-25-10-9-22(17-24(25)27)23(18-29-15-13-28-14-16-29)26(30)11-3-2-4-12-26;;/h5-10,17,23,28,30H,2-4,11-16,18-19H2,1H3;2*1H
